US09085534B2
3-[(2,4-dimethyoxybenzyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 61% yield from 2,4-dimethoxybenzylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.41 (br s, 1H), 8.20 (s, 1H), 7.80 (d, 1H, J=5.0 Hz), 7.54 (d, 1H, J=5.0 Hz), 7.18 (d, 1H, J=8.3 Hz), 6.59 (d, 1H, J=2.4 Hz), 6.48 (dd, 1H, J=8.3, 2.4 Hz), 4.40 (s, 2H), 382 (s, 3H), 3.74 (s, 3H). [M+H] calc'd for C15H16N2O4, 259; found 259.

reactant | 2,4-dimethoxybenzylamine | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(2,4-dimethyoxybenzyl)amino]pyridine-4-carboxylic acid | 61% yield | COC1=C(CNC=2C=NC=CC2C(=O)O)C=CC(=C1)OC | C15H16N2O4
